US08445689B2
To a stirred solution of methyl(oxido){1-[6-(trifluoromethyl)pyridin-3-yl]ethyl}-λ4-sulfanylidenecyanamide (5 g, 18 mmol) in CH2Cl2 (300 mL) at 0° C. was added trifluoroacetic anhydride (7.5 mL, 54 mmol). The mixture was allowed to react at 25° C. until the starting material was fully consumed. The reaction mixture was concentrated in vacuo, dissolved in methanol (125 mL) and treated with potassium carbonate (12.5 g, 90 mmol). The mixture was allowed to stir at 25° C. until the starting material was consumed. The crude reaction mixture was filtered, concentrated and purified by chromatography (acetone-hexanes) to furnish 5-[1-(methylsulfonimidoyl)ethyl]-2-(trifluoromethyl)pyridine as a white solid (3.5 g, 77%): ESIMS m/z 253 ([M+H]+).

reactant | methyl(oxido){1-[6-(trifluoromethyl)pyridin-3-yl]ethyl}-λ4-sulfanylidenecyanamide | 18 mmol, 5 g | CCC(C=1C=NC(=CC1)C(F)(F)F)S(=NC#N)[O-]
reactant | trifluoroacetic anhydride | 54 mmol, 7.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 90 mmol, 12.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-[1-(methylsulfonimidoyl)ethyl]-2-(trifluoromethyl)pyridine | 3.5 g, 77% | CS(=O)(=N)C(C)C=1C=CC(=NC1)C(F)(F)F | C9H11F3N2OS
